US07253286B2
N6-(2-Ethoxyethyl)-4-(3-chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxamide
After dissolving 4-(3-chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxylic acid (86 mg, 0.20 mmol) in dimethylformamide (2 ml) under a nitrogen atmosphere, 2-ethoxyethylamine (0.042 ml, 0.40 mmol), triethylamine (0.2 ml) and ((1H-1,2,3-benzotriazol-1-yloxy)(tri(dimethylamino))phosphonium hexafluorophosphate) (133 mg, 0.20 mmol) were added in that order at room temperature, and the mixture was stirred overnight. The reaction solution was distributed between ethyl acetate and water, and the organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled off and suspended in ethyl acetate, the suspension was diluted with hexane, and the crystals were filtered out and blow-dried to obtain the title compound (87.7 mg, 0.176 mmol, 87.9%) as white crystals.

reactant | 4-(3-chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxylic acid | 0.20 mmol, 86 mg | ClC=1C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)O)OC)C=CC1NC(=O)NC1CC1 | C21H18ClN3O5
reactant | 2-ethoxyethylamine | 0.40 mmol, 0.042 ml | C(C)OCCN | C4H11NO
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | (1H-1,2,3-benzotriazol-1-yloxy)(tri(dimethylamino))phosphonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N6-(2-Ethoxyethyl)-4-(3-chloro-4-(((cyclopropylamino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxamide | 0.176 mmol, 87.7 mg, 87.9% | C(C)OCCNC(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NC1CC1)Cl | C25H27ClN4O5
